US09102591B2
2-(6-(Trifluoromethyl)pyridin-3-yl)acetonitrile (260 mg, 1.4 mmol) was dissolved in THF (3 mL, 30 mmol) under Ar and cooled at −78° C. A solution of 0.6 Ni sodium bis(trimethylsilyl)amide in toluene (3.49 mL) was added dropwise. After stirring at −78° C. for 4 hours the reaction was allowed to reach −50° C. for 30 minutes. Then tetrahydro-4H-pyran-4-one (0.189 mL, 2.10 mmol) was added dropwise at −60° C. and the reaction was kept at this temperature for 45 minutes. To the reaction was added sat. aq. NH4Cl (10 mL) and it was extracted AcOEt (3×20 mL). The combined organic phases were washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product was purified by flash chromatography to yield 2-(4-Hydroxytetrahydro-2H-pyran-4-yl)-2-(6-(trifluoromethyl)pyridin-3-yl)acetonitrile (189 mg, 0.660 mmol, 47%).

reactant | 2-(6-(Trifluoromethyl)pyridin-3-yl)acetonitrile | 1.4 mmol, 260 mg | FC(C1=CC=C(C=N1)CC#N)(F)F | C8H5F3N2
reactant | THF | 30 mmol, 3 mL | C1CCOC1 | C4H8O
reactant | tetrahydro-4H-pyran-4-one | 2.10 mmol, 0.189 mL | O1CCC(CC1)=O | C5H8O2
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | toluene | 3.49 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Hydroxytetrahydro-2H-pyran-4-yl)-2-(6-(trifluoromethyl)pyridin-3-yl)acetonitrile | 0.660 mmol, 189 mg, 47% | OC1(CCOCC1)C(C#N)C=1C=NC(=CC1)C(F)(F)F | C13H13F3N2O2
